US03980700
5 Parts of (-)-menthoxyacetic acid is dissolved in 8.79 parts of benzene and treated with 5.95 parts of oxalyl chloride. The resulting solution then is heated at about 60° for 2 hours and allowed to stand for 1 hour at room temperature. After that time, the solvent is removed under reduced pressure, and the remaining residue is dissolved in benzene and again concentrated to dryness. The crude (-)-menthoxyacetyl chloride thus obtained is dissolved in 8.79 parts of benzene and that solution added to a cold solution of 7.5 parts of 3-hydroxy-5-oxo-2-styrylcyclopent-1-eneheptanoic acid dissolved in 9.82 parts of pyridine. That mixture is allowed to stand for about 16 hours at room temperature, then poured into a cold solution of 50 parts of d-tartaric acid in 1,500 parts of water. The solution is extracted with ethyl acetate and the organic extracts are washed with water, dried over anhydrous sodium sulfate and concentrated to dryness. The oily residue which remains is dissolved in benzene and chromatographed on silicic acid to yield, after elution with 10% ethyl acetate-90% benzene, crude product. The pure material is obtained upon recrystallization from benzene-hexane to give 3-((-)-menthoxyacetoxy)-5-oxo-2-styrylcyclopent-1-eneheptanoic acid, melting at about 103°-104°, and displaying an optical rotation of about -42.1°. That compound is characterized by infrared absorption maxima, in chloroform, at about 1754, 1710, 1627 and 1124 reciprocal centimeters, an ultraviolet absorption band, in methanol, at about 326 millimicrons with a molecular extinction coefficient of about 37,000, and represented by the following structural formula ##SPC21##

reactant | (-)-menthoxyacetic acid | C1(CC(C(CC1)C(C)C)OCC(=O)O)C | C12H22O3
reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 3-hydroxy-5-oxo-2-styrylcyclopent-1-eneheptanoic acid | OC1C(=C(C(C1)=O)CCCCCCC(=O)O)C=CC1=CC=CC=C1 | C20H24O4
reactant | d-tartaric acid | C([C@@H](O)[C@H](O)C(=O)O)(=O)O | C4H6O6
solvent | benzene | C1=CC=CC=C1 | C6H6
solvent | pyridine | N1=CC=CC=C1 | C5H5N
solvent | water | O | H2O
product | 3-((-)-menthoxyacetoxy)-5-oxo-2-styrylcyclopent-1-eneheptanoic acid | C1(CC(C(CC1)C(C)C)OCC(=O)OC1C(=C(C(C1)=O)CCCCCCC(=O)O)C=CC1=CC=CC=C1)C | C32H44O6
